US03987047
2-Acetyl-11-chloro-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline hydrochloride
4.3 gm (55 millimols) of acetyl chloride were added dropwise to a mixture of 11.8 gm (50 millimols) of 11-chloro-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline, 5.5 gm. (55 millimols) of triethylamine and 300 ml of chloroform. After 100 hours of standing, the mixture was washed with water, and the chloroform phase was evaporated. The raw crystalline base was purified on a silicagel column with benzene/acetone (2:1) as the eluant. The hydrochloride was precipitated from isopropanol with isopropanolic hydrochloric acid.

reactant | acetyl chloride | 55 millimols, 4.3 gm | C(C)(=O)Cl | C2H3ClO
reactant | 11-chloro-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline | 50 millimols, 11.8 gm | ClC1=C2C(=NC=3C=CC=CC13)CCCNC2 | C13H13ClN2
reactant | triethylamine | 55 millimols | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Acetyl-11-chloro-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline hydrochloride | Cl.C(C)(=O)N1CC=2C(=NC=3C=CC=CC3C2Cl)CCC1 | InChI=1S/C15H15ClN2O.ClH/c1-10(19)18-8-4-7-14-12(9-18)15(16)11-5-2-3-6-13(11)17-14;/h2-3,5-6H,4,7-9H2,1H3;1H
